* Schematics Netlist *



X_U3         0 $N_0001 V+ V- $N_0002 uA741
R_R3         $N_0002 $N_0001  {var1}  
R_R14         0 $N_0005  1k  
X_U10         $N_0005 $N_0006 V+ V- $N_0006 uA741
R_R17         $N_0009 $N_0006  1k  
Q_Q1         $N_0006 $N_0010 $N_0011 Q2N3904
V_V4         $N_0009 0 1.5V
X_U12         $N_0009 $N_0012 V+ V- $N_0010 uA741
X_U9         $N_0015 $N_0005 V+ V- $N_0005 uA741
V_V2         0 V- 15V
V_V3         V+ 0 15V
V_V1         0 $N_0018 0.184V
R_R6         $N_0020 $N_0019  1k  
R_R7         $N_0019 $N_0021  1k  
R_R8         0 $N_0020  1k  
R_R9         $N_0023 $N_0022  1k  
X_U4         0 $N_0023 V+ V- $N_0022 uA741
X_U5         $N_0022 $N_0026 V+ $N_0018 $N_0026 uA741
X_U6         $N_0026 $N_0020 V+ V- $N_0019 uA741
X_U11         0 $N_0021 V+ V- $N_0031 uA741
R_R16         $N_0021 $N_0031  1k  
R_R21         $N_0035 $N_0034  1  
R_R22         0 $N_0036  100k  
X_U14         $N_0036 $N_0037 V+ V- $N_0037 uA741
X_TX1    $N_0034 0 $N_0036 0 Final_ckt_TX1 
R_R5         $N_0037 $N_0023  1k  
R_R10         $N_0037 $N_0021  1k  
C_C1         0 $N_0005  500u  
R_R19         $N_0012 $N_0011  650k  
R_R18         0 $N_0012  650k  
X_U1         0 $N_0040 V+ V- $N_0041 uA741
R_R1         $N_0041 $N_0040  1k  
R_R4         $N_0040 $N_0011  1k  
R_R25         0 $N_0002  100k  
R_R15         $N_0031 $N_0044  1k  
X_U7         0 $N_0044 V+ V- $N_0015 uA741
R_R12         $N_0044 $N_0015  1k  
V_V6         $N_0035 0 DC 0 AC 0
+SIN 0 220V 50 0 0 0
R_R20         $N_0001 $N_0041  500  

.subckt Final_ckt_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 440mH
L2_TX1         3 4 0.23mH
.ends Final_ckt_TX1
