* Schematics Netlist *



V_V1         0 $N_0001 0.184V
R_R6         $N_0002 D  1k  
R_R7         D $N_0003  1k  
R_R8         0 $N_0002  1k  
R_R9         $N_0004 B  1k  
X_U4         0 $N_0004 V+ V- B uA741
X_U5         B C V+ $N_0001 C uA741
X_U6         C $N_0002 V+ V- D uA741
X_U11         0 $N_0003 V+ V- E uA741
R_R16         $N_0003 E  1k  
R_R21         $N_0014 $N_0013  1  
R_R22         0 $N_0015  100k  
X_U14         $N_0015 A V+ V- A uA741
X_TX1    $N_0013 0 $N_0015 0 Rectifying_signal_TX1 
R_R5         A $N_0004  1k  
R_R10         A $N_0003  1k  
R_R12         $N_0018 F  1k  
X_U7         0 $N_0018 V+ V- F uA741
R_R15         E $N_0018  1k  
V_V2         0 V- 15V
V_V3         V+ 0 15V
R_R26         0 F  100k  
V_V6         $N_0014 0 DC 0 AC 0
+SIN 0 220V 50 0 0 0

.subckt Rectifying_signal_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 440mH
L2_TX1         3 4 0.23mH
.ends Rectifying_signal_TX1
